US08030497B2
5-Benzyl-4-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole
417 mg (1.78 mmol) N-iodo-succinimide are added to a solution of 670 mg (1.62 mmol) 5-benzyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole in 25 ml acetonitrile. The reaction mixture is stirred at reflux temperature for 3 h. The reaction mixture is poured on water and extracted (3×) with ethyl acetate. The combined organic layers are washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=4:1) to afford 582 mg of the title compound as a white crystalline solid.

reactant | N-iodo-succinimide | 1.78 mmol, 417 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 5-benzyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 1.62 mmol, 670 mg | C(C1=CC=CC=C1)C1=CC2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC | C27H30N2O2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5-Benzyl-4-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 582 mg | C(C1=CC=CC=C1)C1=C(C2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC)I | C27H29IN2O2
